US04399163
B. 4-Bromo-1-hydroxy-2,2,4-trimethylpentan-3-one
To a stirred, refluxing solution of 69 g. (0.48 mole) of 1-hydroxy-2,2,4-trimethylpentan-3-one in 500 ml. of chloroform was added dropwise a solution of 77 g. (0.48 mole) bromine in 100 ml. of chloroform. When the addition was completed the mixture was stirred at reflux for one hour, allowed to cool and stand overnight at room temperature. Evaporation of solvent at reduced pressure afforded 127 g. of product which was used in the next step without purification.

reactant | 1-hydroxy-2,2,4-trimethylpentan-3-one | 0.48 mole | OCC(C(C(C)C)=O)(C)C | C8H16O2
reactant | bromine | 0.48 mole | BrBr | Br2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 4-Bromo-1-hydroxy-2,2,4-trimethylpentan-3-one | BrC(C(C(CO)(C)C)=O)(C)C | C8H15BrO2
